US06482824B1
To a stirred solution of 3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine hydrochloride (1.31 g, 4.59 mmol) and triethylamine (1.34 ml, 9.63 mmol) in dichloromethane (50 ml) was added 4-N-acetylsulphanilyl chloride (1.07 g, 4.59 mmol). After 4 h at room temperature, the reaction mixture was washed twice with water and brine. The organic phase was dried over magnesium sulphate, filtered and evaporated to a foam, purified on flash silica eluting with ethylacetate to give 2-(4-acetamidobenzenesulphonyl)-3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine as a white foam. 1H NMR (CDCl3)δ 1.39(3H, t), 2.21(3H, s), 3.85(2H, m), 4.00(2H, q), 4.54(1H, m), 5.32(1H, s), 5.70(1H, m), 6.80(2H, d), 7.09(2H, d), 7.54(1H, bs) 7.63(2H, d), 7.85(2H, d).

reactant | 3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine hydrochloride | 4.59 mmol, 1.31 g | Cl.C(C)OC1=CC=C(C=C1)C1C(=CC(NO1)CO)C
reactant | triethylamine | 9.63 mmol, 1.34 ml | C(C)N(CC)CC | C6H15N
reactant | 4-N-acetylsulphanilyl chloride | 4.59 mmol, 1.07 g | C(C)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C8H8ClNO3S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-acetamidobenzenesulphonyl)-3,6-dihydro-6-(4-ethoxyphenyl)-3-hydroxymethyl-5-methyl-2H-1,2-oxazine | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N1OC(C(=CC1CO)C)C1=CC=C(C=C1)OCC | C22H26N2O6S
